US06979692B2
(f) (S)-2-Amino-N-benzyl-2-phenyl-acetamide hydrochloride
(S)-(Benzylcarbamoyl-phenyl-methyl)-carbamic acid tert-butyl ester (0.85 g, 2.50 mmol) was dissolved in HCl/dioxane(10 mL, 4.0 M). The mixture was stirred at room temperature overnight. The volatiles were removed under reduced pressure to provide the desired product in quantitative yield.

reactant | (S)-(Benzylcarbamoyl-phenyl-methyl)-carbamic acid tert-butyl ester | 2.50 mmol, 0.85 g | C(C)(C)(C)OC(N[C@@H](C1=CC=CC=C1)C(NCC1=CC=CC=C1)=O)=O | C20H24N2O3
reactant | HCl dioxane | 4.0 M, 10 mL | Cl.O1CCOCC1
product | (S)-2-Amino-N-benzyl-2-phenyl-acetamide hydrochloride | quantitative yield | Cl.N[C@H](C(=O)NCC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C15H16N2O.ClH/c16-14(13-9-5-2-6-10-13)15(18)17-11-12-7-3-1-4-8-12;/h1-10,14H,11,16H2,(H,17,18);1H/t14-;/m0./s1
